US08580841B2
Step B: Preparation of 4-(Pyrazin-2-yl)benzyl methanesulfonate.
To a stirred solution of (4-(pyrazin-2-yl)phenyl)methanol (40 mg, 0.22 mmol) and DIEA (56 μL, 0.32 mmol) in DCM (1 mL) was added methanesulfonyl chloride (29.5 mg, 0.258 mmol) at 0° C. The reaction mixture was stirred at that temperature for 1 h, poured into water, and extracted with DCM. The combined organics were dried and concentrated to give the title compound (50 mg) without further purification. LCMS m/z=265.1 [M+H]+.

reactant | (4-(pyrazin-2-yl)phenyl)methanol | 0.22 mmol, 40 mg | N1=C(C=NC=C1)C1=CC=C(C=C1)CO | C11H10N2O
reactant | DIEA | 0.32 mmol, 56 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.258 mmol, 29.5 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(Pyrazin-2-yl)benzyl methanesulfonate | 50 mg | CS(=O)(=O)OCC1=CC=C(C=C1)C1=NC=CN=C1 | C12H12N2O3S
